US04526723
Part A: Preparation of ethyl 6-(3'chlorophenyl)-6-cyano-5-keto-3,3-dimethylhexanoate
Starting with 75.0 g (0.495 mol) of 3-chlorobenzyl cyanide, 160.58 g (0.743 mol) of diethyl 3,3-dimethylglutarate, 14.80 g (0.643 mol) of sodium, and 260 ml of dry ethanol a total of 108.08 g (71% yield) of the desired product was obtained using the procedure described in Example I, Part A.

reactant | 3-chlorobenzyl cyanide | 0.495 mol, 75.0 g | ClC=1C=C(CC#N)C=CC1 | C8H6ClN
reactant | diethyl 3,3-dimethylglutarate | 0.743 mol, 160.58 g | CC(CC(=O)OCC)(CC(=O)OCC)C | C11H20O4
reactant | sodium | 0.643 mol, 14.80 g | [Na] | Na
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | ethyl 6-(3'chlorophenyl)-6-cyano-5-keto-3,3-dimethylhexanoate | 108.08 g, 71% yield | ClC=1C=C(C=CC1)C(C(CC(CC(=O)OCC)(C)C)=O)C#N | C17H20ClNO3
